US07485637B2
[4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-morpholin-4-yl-5-nitrophenyl) methanone
According to the procedure described for the synthesis of example 1, the title compound has been synthesized from 2-morpholin-4-yl-5-nitro-benzoyl chloride and 4-(4-Chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride (commercial). MS (m/e): 428.1 (MH+, 100%)

reactant | 2-morpholin-4-yl-5-nitro-benzoyl chloride | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
reactant | 4-(4-Chloro-phenyl)-1,2,3,6-tetrahydro-pyridine hydrochloride | Cl.ClC1=CC=C(C=C1)C=1CCNCC1
product | [4-(4-Chloro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-(2-morpholin-4-yl-5-nitrophenyl) methanone | ClC1=CC=C(C=C1)C=1CCN(CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C22H22ClN3O4
